US06627629B2
Preparation of 1-{(3S,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-piperidin-4-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea, bistrifluoroactetic acid salt
In a dry flask (3R,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-4-{3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-ureido}-piperidine-1-carboxylic acid t-butyl ester (48 mg, 0.079 mmol) was dissolved in dichloromethane (1.5 mL), and trifluoroacetic acid (0.5 mL) was added. The reaction mixture was stirred for 3 hours. The reaction mixture was concentrated in vacuo then purified by preparative reverse-phase HPLC (10-80% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (22 mg, 38%). 1H NMR (500 MHz, CD3OD, 30° C.), δ: 8.01 (t, 1H, J=1), 7.59 (dq, 1H, J=8, J′=1), 7.52 (t, 1H, J=8), 7.43 (dt, 1H, J=8, J′=1), 7.17 (m, 2H), 6.96 (t, 2H, J=9), 4.18 (s, 3H), 3.73 (m, 2H), 3.51 (m, 3H), 3.38 (d, 1H, J=13), 3.13 (m, 2H), 2.99 (m, 2H), 2.64 (dd, 2H, J=14, J′=6), 2.50 (bs, 2H), 2.21 (m, 1H), 2.11 (bs, 1H), 1.92 (m, 2H), 1.76 (m, 2H), 1.19 (m, 1H). HRMS (ESI), C27H36FN8O M+/z: calc. 507.2996, found=507.2976.

reactant | (3R,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-4-{3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-ureido}-piperidine-1-carboxylic acid t-butyl ester | 0.079 mmol, 48 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC(=O)NC1=CC(=CC=C1)C1=NN=NN1C)CN1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C32H43FN8O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-{(3S,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidin-1-ylmethyl]-piperidin-4-yl}-3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | 22 mg, 38% | FC1=CC=C(C[C@H]2CN(CCC2)C[C@@H]2CNCC[C@H]2NC(=O)NC2=CC(=CC=C2)C2=NN=NN2C)C=C1 | C27H35FN8O
